US09428508B2
To a solution of 2-nitrobenzene-1-sulfonyl chloride (6.8 g, 30.8 mol) in dichloromethane (100 mL) at 0° C. was added triethylamine (14 g, 138.6 mol) and cyclobutanamine (2.2 g, 31 mmol) in several portions over 10-15 minutes. The reaction mixture was stirred at room temperature for 4 hours, concentrated and purified by silica gel chromatography to afford the product N-cyclobutyl-2-nitrobenzenesulfonamide (7 g, yield 88.9%). 1H NMR (400 MHz, CDCl3) δ ppm 8.14-8.16 (m, 1H), 7.84-7.87 (m, 1H), 7.72-7.74 (m, 2H), 5.45-5.47 (d, 1H, J=8.8 Hz), 3.93-3.99 (m, 1H), 2.11-2.18 (m, 2H), 1.84-1.90 (m, 2H), 1.59-1.69 (m, 2H).

reactant | 2-nitrobenzene-1-sulfonyl chloride | 30.8 mol, 6.8 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | triethylamine | 138.6 mol, 14 g | C(C)N(CC)CC | C6H15N
reactant | cyclobutanamine | 31 mmol, 2.2 g | C1(CCC1)N | C4H9N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-cyclobutyl-2-nitrobenzenesulfonamide | 7 g, yield 88.9% | C1(CCC1)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C10H12N2O4S
